US07012077B2
A solution of 81 g (314.77 mmol) trans-4-[(tert-Butoxyformamido)methyl]cyclohexanecarboxylic acid in 4 l CH2Cl2 was treated with 50.13 g (503.63 mmol) N,O-dimethyl-hydroxylamine hydrochloride, 55.37 ml (503.63 mmol) N-methylmorpholine and at 0° C. with 78.45 g (409.2 mmol) EDCI and 9.67 g (62.95 mmol) HOBT. The reaction mixture was stirred 16 h at room temperature, evaporated and extracted with aqueous 10% KHSO4/Et2O (3×). The organic phases were washed with aqueous saturated NaHCO3, 10% NaCl and dried over Na2SO4 to yield 100.03 g (quantitative) of trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester, MS: 301 (MH+).

reactant | trans-4-[(tert-Butoxyformamido)methyl]cyclohexanecarboxylic acid | 314.77 mmol, 81 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 503.63 mmol, 50.13 g | Cl.CNOC
reactant | N-methylmorpholine | 503.63 mmol, 55.37 ml | CN1CCOCC1 | C5H11NO
reactant | EDCI | 409.2 mmol, 78.45 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 62.95 mmol, 9.67 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 4 l | C(Cl)Cl | CH2Cl2
product | trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester | 100.03 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C15H28N2O4
